US06897208B2
N-(5-Chloro-4-methoxy-2-nitrophenyl)acetamide (8.0 g, Reference Example 32(i) was added to a solution of sodium methoxide (2.0 g, 0.037 mole) in methanol (150 mL) and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was added to ice water (750 mL), stirred for 15 minutes and the aqueous mixture was filtered. The precipitate was washed with water and dried at 60° C. under vacuum to give 5-chloro-4-methoxy-2-nitrophenylamine (6.52 g) as an orange solid, mp 128-129° C. (i) 4-Methoxy-5-methyl-2-nitro-phenylamine

reactant | N-(5-Chloro-4-methoxy-2-nitrophenyl)acetamide | ClC=1C(=CC(=C(C1)NC(C)=O)[N+](=O)[O-])OC | C9H9ClN2O4
reactant | sodium methoxide | 0.037 mole, 2.0 g | C[O-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 5-chloro-4-methoxy-2-nitrophenylamine | 6.52 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC | C7H7ClN2O3
